US05468748
9H-Indeno[1,2-b]pyrazine-3,9(4H)-dione 9-ethylene dithioacetal
A suspension of 9H-indeno[1,2-b]pyrazine-3,9(4H)-dione (0.50 g, 2.52 mmol) in benzene (10 ml), 1,2-ethanedithiol (0.63 ml, 7.56 mmol) and boron trifluoride etherate (0.31 ml, 2.52 mmol) was refluxed for 23 hours. The reaction mixture was cooled to room temperature, and the precipitate was filtered off and washed with benzene and water and dried. The crude material (0.64 g) was recrystallized twice from ethanol to give 0.44 g (64%) of the title compound. M.p. 284°-290° C. 1H-NMR (DMSO-d6, δ): 3.75-3.94 (m, 4H), 7.46-7.57 (m, 2H), 7.8 (m, 2H), 7.95 (s, 1H), 12.6 (s, 1H).

reactant | 9H-indeno[1,2-b]pyrazine-3,9(4H)-dione | 2.52 mmol, 0.50 g | N=1C2=C(NC(C1)=O)C=1C=CC=CC1C2=O | C11H6N2O2
reactant | 1,2-ethanedithiol | 7.56 mmol, 0.63 ml | C(CS)S | C2H6S2
reactant | boron trifluoride etherate | 2.52 mmol, 0.31 ml | B(F)(F)F.CCOCC
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 9H-Indeno[1,2-b]pyrazine-3,9(4H)-dione 9-ethylene dithioacetal | 0.44 g, 64% | C1CSC2(C=NC3=C(N2)C=2C=CC=CC2C3=O)S1 | C13H10N2OS2
